US08980886B2
Synthesis of N-[4-chloro-2-methyl-6-(methylcarbamoyl)phenyl]-4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidine-5-carboxamide
100 mg (0.18 mmol) of 6-chloro-2-[4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidin-5-yl]-8-methyl-4H-3,1-benzoxazin-4-one were initially charged in 3 ml of THF, and 0.234 ml (0.46 mmol) of a 2 molar methylamine/THF solution was added at RT. The reaction mixture was then stirred at 45° C. for 15 min. After cooling, the mixture was concentrated and purified chromatographically on silice gel using cyclohexane/ethyl acetate. 48 mg (40% of theory; content 89%) of the desired product were isolated.

reactant | 6-chloro-2-[4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidin-5-yl]-8-methyl-4H-3,1-benzoxazin-4-one | 0.18 mmol, 100 mg | ClC=1C=C(C2=C(C(OC(=N2)C=2C(=NC(=NC2)CN2N=C(N=N2)C(F)(F)F)C2=C(C=CC=C2)Cl)=O)C1)C | C22H12Cl2F3N7O2
reactant | methylamine THF | 2 molar | CN.C1CCOC1
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-[4-chloro-2-methyl-6-(methylcarbamoyl)phenyl]-4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidine-5-carboxamide | ClC1=CC(=C(C(=C1)C(NC)=O)NC(=O)C=1C(=NC(=NC1)CN1N=C(N=N1)C(F)(F)F)C1=C(C=CC=C1)Cl)C | C23H17Cl2F3N8O2
